US20010021712A1
A suspension of 11.0 g (0.038 mol) of 1 -[bis-(4-fluorophenyl)methyl]piperazine, 10.5 g (0.076 mol) of 2-(2-chlorethoxy)acetamide and 8.1 g of anhydrous sodium carbonate in 40 ml of xylene is heated under reflux at 140° C. for 4 hours. The precipitate which forms is filtered off and then washed with toluene. The filtrate and toluene used for washing are combined. The resulting organic phase is extracted with 80 ml of 1N aqueous hydrochloric acid, and the aqueous phase is washed twice with toluene. Toluene is added to the resulting aqueous phase, then 80 ml of a 1N aqueous sodium hydroxyde solution are added, and the aqueous mixture is extracted once with toluene. The organic phase is washed once with water, dried over anhydrous sodium sulphate and the solvents are evaporated off with a rotative evaporator until dryness. At this stage, the evaporation residue consists of 2-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]ethoxyacetamide, which may be converted into its dihydrochloride salt as follows: the evaporation residue is taken up with 50 ml isopropanol and filtered; a 4.38 N alcoholic hydrochloric acid solution (17.5 ml) is added to the isopropanol solution and the mixture is allowed to crystallize. The precipitate is filtered, washed with isopropanol and diethyl ether, then dried in vacuo. This way, 15.8 g (90%) 2-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]ethoxyacetamide dihydrochloride are obtained.

reactant | 1 -[bis-(4-fluorophenyl)methyl]piperazine | 0.038 mol, 11.0 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | 2-(2-chlorethoxy)acetamide | 0.076 mol, 10.5 g | ClCCOCC(=O)N | C4H8ClNO2
reactant | sodium carbonate | 8.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]ethoxyacetamide dihydrochloride | 15.8 g, 90% | Cl.Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)N)C1=CC=C(C=C1)F | InChI=1S/C21H25F2N3O2.2ClH/c22-18-5-1-16(2-6-18)21(17-3-7-19(23)8-4-17)26-11-9-25(10-12-26)13-14-28-15-20(24)27;;/h1-8,21H,9-15H2,(H2,24,27);2*1H
